US05360802
Step 3: N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[3-(thiazol-2-ylaminosulphonyl)phenyl]urea
The title compound was prepared from 5-cyclohexyl- 1,3-dihydro-1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (0.3 g, 0.69 mmol), triethylamine (96 μl, 0.69 mmol), dimethylformamide (6 ml) and 1-(thiazol-2-ylaminosulphonyl)-3aminobenzene (0.19 g, 0.76 mmol) using the procedure described in Example 11, Step 4. The product (125 mg, 33% ) was afforded as a cream solid after trituration with methanol. mp 230° C. (dec.). 1H NMR (360 MHz, D6 -DMSO) δ 0.84-0.96 (1H, m), 1.08-1.65 (7H, m), 1.71-1.81 (1H, m), 1.86-1.94 (1H, m), 2.88-2.96 (1H, m), 3.32 (3H, s), 5.06 (1H, d, J=8.2 Hz), 6.80 (1H, d, J=4.6 Hz), 7.22 (1H, d, J=4.6 Hz), 7.28-7.42 (5H, m), 7.55 (1H, d, J=7.4 Hz), 7.64 (1H, dd, J=7.1 and 7.0 Hz), 7.75 (1H, d, J=7.9 Hz), 7.98 (1H, s), 9.30 (1H, s), 12.63 (1H, brs).

reactant | 5-cyclohexyl- 1,3-dihydro-1-methyl-3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 0.69 mmol, 0.3 g | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C23H24N4O5
reactant | triethylamine | 0.69 mmol, 96 μl | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | 1-(thiazol-2-ylaminosulphonyl)-3aminobenzene | 0.76 mmol, 0.19 g | S1C(=NC=C1)NS(=O)(=O)C1=CC(=CC=C1)N | C9H9N3O2S2
solvent | methanol | CO | CH4O
product | N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'-[3-(thiazol-2-ylaminosulphonyl)phenyl]urea | C1CCCC(C1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)S(=O)(=O)NC=2SC=CN2 | C26H28N6O4S2
